US07572820B2
1-({5-[3-Fluoro-5-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 65 from 2-[5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]-N-hydroxyethanimidamide and 3-fluoro-5-(trifluoromethyl)benzoic acid: MS (ESI): m/z 455 (M+1).

reactant | 2-[5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]-N-hydroxyethanimidamide | C(#N)C=1C(=C2C=CN(C2=CC1)CC(NO)=N)C(F)(F)F | C12H9F3N4O
reactant | 3-fluoro-5-(trifluoromethyl)benzoic acid | FC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H4F4O2
product | 1-({5-[3-Fluoro-5-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile | FC=1C=C(C=C(C1)C(F)(F)F)C1=NC(=NO1)CN1C=CC2=C(C(=CC=C12)C#N)C(F)(F)F | C20H9F7N4O
